US06245804B1
6-(4,4-Dimethyl-2-oxo-5-hexenoylamino)-phthalide
was obtained analogously to the process that is described for 4-bromo-5-(4-methyl-2-oxo-4-phenyl-valeroylamino)-phthalide from 5-aminophthalide and 4,4-dimethyl-2-oxo-5-hexenoic acid, melting point 103-104° C.

reactant | 4-bromo-5-(4-methyl-2-oxo-4-phenyl-valeroylamino)-phthalide | BrC1=C2COC(=O)C2=CC=C1NC(C(CC(C)(C1=CC=CC=C1)C)=O)=O | C20H18BrNO4
reactant | 5-aminophthalide | NC=1C=C2COC(=O)C2=CC1 | C8H7NO2
reactant | 4,4-dimethyl-2-oxo-5-hexenoic acid | CC(CC(C(=O)O)=O)(C=C)C | C8H12O3
product | 6-(4,4-Dimethyl-2-oxo-5-hexenoylamino)-phthalide | CC(CC(C(=O)NC1=CC=C2COC(=O)C2=C1)=O)(C=C)C | C16H17NO4
